US08895559B2
1.15 g of 4-cyano-N-{3-[2-(3-hydroxypropoxy)-3,5-dimethoxyphenylamino]quinoxalin-2-yl}-benzenesulfonamide in 5 ml of THF and 12 ml of methanolic ammonia solution (10%) are hydrogenated in a suitable pressure apparatus in the presence of 1.00 g of sponge nickel catalyst (Johnson-Matthey) at 50° C. and 5 bar for 17 hours. The catalyst is filtered off, rinsed with copious MeOH and THF, and the entire filtrate is evaporated, giving 819 mg of 4-aminomethyl-N-{3-[2-(3-hydroxypropoxy)-3,5-dimethoxyphenylamino]quinoxalin-2-yl}-benzenesulfonamide having a content of 82.4% (yield 59.4%); MS-FAB (M+H+)=540.2; Rf (polar method): 1.75 min.

reactant | 4-cyano-N-{3-[2-(3-hydroxypropoxy)-3,5-dimethoxyphenylamino]quinoxalin-2-yl}-benzenesulfonamide | 1.15 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=C(C(=CC(=C1)OC)OC)OCCCO | C26H25N5O6S
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ammonia | 12 ml | N | H3N
catalyst | nickel | 1.00 g | [Ni] | Ni
product | 4-aminomethyl-N-{3-[2-(3-hydroxypropoxy)-3,5-dimethoxyphenylamino]quinoxalin-2-yl}-benzenesulfonamide | 819 mg, yield 59.4% | NCC1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1NC1=C(C(=CC(=C1)OC)OC)OCCCO | C26H29N5O6S
